US05593944
Dry HCl gas is passed into a solution of 66.7 g (0.35 mol) of 4-chloro-2-fluoro-5-nitroaniline in 1180 ml of toluene at 0° to 5° C. until the solution is saturated. 34.7 g (0.35 ml) of phosgene are subsequently metered in, and the mixture is heated slowly at 85° C. After a further 17.3 g (0.175 mol) of phosgene have been added and the mixture has been heated at 85° C. (1 h), the batch is flushed with nitrogen until free from phosgene and cooled. Removal of the precipitate by filtration and concentration gives 28.6 g (37.7% of theory) of 4-chloro-2-fluoro-5-nitrophenyl isocyanate of melting point 43°-46° C.; boiling point 125° C. at 0.3 torr (bulb-tube distillation).

reactant | HCl | Cl | ClH
reactant | 4-chloro-2-fluoro-5-nitroaniline | 0.35 mol, 66.7 g | ClC1=CC(=C(N)C=C1[N+](=O)[O-])F | C6H4ClFN2O2
reactant | phosgene | 0.35 ml, 34.7 g | C(=O)(Cl)Cl | CCl2O
reactant | phosgene | 0.175 mol, 17.3 g | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 1180 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-2-fluoro-5-nitrophenyl isocyanate | 28.6 g, 37.7% | ClC1=CC(=C(C=C1[N+](=O)[O-])N=C=O)F | C7H2ClFN2O3
